US08486962B2
To a solution of diphenyl-methanone oxime (2 g, 10 mmol) and (2-chloro-ethyl)-dimethyl-amine hydrochloride (1.5 g, 10.4 mmol) in DMSO (20 ml) was added powdered potassium hydroxide (800 mg, 14.3 mmol) and the reaction mixture stirred overnight. The reaction mixture was diluted with water and then extracted with ethyl acetate. The organic layer was washed thoroughly with water and brine, then dried over anhydrous sodium sulphate and filtered. Concentration of the organic layer under reduced pressure gave diphenyl-methanone O-(2-dimethylaminoethyl)-oxime (700 mg, 26%) as a solid.

reactant | diphenyl-methanone oxime | 10 mmol, 2 g | C1(=CC=CC=C1)C(=NO)C1=CC=CC=C1 | C13H11NO
reactant | (2-chloro-ethyl)-dimethyl-amine hydrochloride | 10.4 mmol, 1.5 g | Cl.ClCCN(C)C
reactant | potassium hydroxide | 14.3 mmol, 800 mg | [OH-].[K+]
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | diphenyl-methanone O-(2-dimethylaminoethyl)-oxime | 700 mg, 26% | CN(CCON=C(C1=CC=CC=C1)C1=CC=CC=C1)C | C17H20N2O
